US08686044B2
Preparation of 2-chloro-N-(2,6-dibromo-4-(perfluorobutan-2-yl)phenyl)-3-nitrobenzamide
To 27 ml of DMI were added 9.90 g (21.1 mmol) of 2,6-dibromo-4-(perfluorobutan-2-yl)aniline and 4.60 g (20.9 mmol) of 2-chloro-3-nitrobenzoyl chloride, followed by stirring at 140° C. for 4 hours. To the reaction solution were added water and ethyl acetate, and the organic phase was extracted, and washed with 1 mol/L of an aqueous sodium hydroxide solution, saturated brine, and dried over anhydrous magnesium sulfate. Then, the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent solvent; hexane:ethyl acetate=20:1→10:1→5:1→3:1) to prepare 5.44 g (yield 40%) of a target compound.

reactant | DMI | 27 ml | CN1CCN(C1=O)C | C5H10N2O
reactant | 2,6-dibromo-4-(perfluorobutan-2-yl)aniline | 21.1 mmol, 9.90 g | BrC1=C(N)C(=CC(=C1)C(C(F)(F)F)(C(C(F)(F)F)(F)F)F)Br | C10H4Br2F9N
reactant | 2-chloro-3-nitrobenzoyl chloride | 20.9 mmol, 4.60 g | ClC1=C(C(=O)Cl)C=CC=C1[N+](=O)[O-] | C7H3Cl2NO3
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-chloro-N-(2,6-dibromo-4-(perfluorobutan-2-yl)phenyl)-3-nitrobenzamide | 5.44 g, yield 40% | ClC1=C(C(=O)NC2=C(C=C(C=C2Br)C(C(F)(F)F)(C(C(F)(F)F)(F)F)F)Br)C=CC=C1[N+](=O)[O-] | C17H6Br2ClF9N2O3
